US04891372
3-(2-Aminoethyl)-7-nitro-1,2,4,5-tetrahydro-3H-3-benzazepine
Triphenylphosphine (0.71 g) was added to a solution of 3-(2-azidoethyl)-7-nitro-1,2,4,5-tetrahydro-3H-3-benzazepine (0.68 g) in dry tetrahydrofuran under a nitrogen atmosphere and the reaction mixture was then stirred at room temperature for 18 hours and heated at 50° for 5 hours. After cooling, water was added and the mixture was stirred at room temperature for 3 days. The solvent was then evaporated in vacuo and the residue was diluted with 2M hydrochloric acid and washed three times with ethyl acetate. The aqueous layer was made alkaline (pH=12) with 5M sodium hydroxide and extracted three times with ethyl acetate. The latter organic extracts were combined and dried (Na2SO4), filtered and evaporated in vacuo to give the title compound as an oil, yield 0.56 g, which was used without further purification.

reactant | Triphenylphosphine | 0.71 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | 3-(2-azidoethyl)-7-nitro-1,2,4,5-tetrahydro-3H-3-benzazepine | 0.68 g | N(=[N+]=[N-])CCN1CCC2=C(CC1)C=CC(=C2)[N+](=O)[O-] | C12H15N5O2
reactant | water | O | H2O
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 3-(2-Aminoethyl)-7-nitro-1,2,4,5-tetrahydro-3H-3-benzazepine | NCCN1CCC2=C(CC1)C=CC(=C2)[N+](=O)[O-] | C12H17N3O2
